US04481142
9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine
A mixture of 0.5 g (1.5 mmol) of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide, and 1.0 mol (10 mmol) of phosphorous trichloride in 20 ml of methylene chloride was heated at reflux for 2 hr. The mixture was poured over ice, basified with ammonium hydroxide and extracted with methylene chloride. The methylene chloride solution was dried over anhydrous sodium sulfate and concentrated at reduced pressure to dryness. The residue was crystallized from ether to give off-white crystals, mp 122°-124° C.

reactant | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine-6-oxide | 1.5 mmol, 0.5 g | ClC1=CC2=C(C3=C(C[N+](=C2C2=C(C=CC=C2)F)[O-])C=NC=N3)C=C1 | C18H11ClFN3O
reactant | phosphorous trichloride | 1.0 mol | P(Cl)(Cl)Cl | Cl3P
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 9-Chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepine | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC=N3)C=C1 | C18H11ClFN3
